US04722929
8-(4-Amino-2-dimethylamino-phenyl)-purin-6-one
An amount of 0.9 gm of 8-(2-dimethylamino-4-nitro-phenyl)purin-6-one is hydrogenated in 50 ml of methanol in the presence of 0.5 gm of Raney nickel at ambient temperature and under 5 bars of pressure with hydrogen for three hours until the calculated quantity has been taken up. After the catalyst has been subjected to suction filtration, the filtrate is evaporated to dryness in vacuo.

reactant | 8-(2-dimethylamino-4-nitro-phenyl)purin-6-one | 0.9 gm | CN(C1=C(C=CC(=C1)[N+](=O)[O-])C1=NC2=NC=NC(C2=N1)=O)C | C13H10N6O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | Raney nickel | 0.5 gm | [Ni] | Ni
product | 8-(4-Amino-2-dimethylamino-phenyl)-purin-6-one | NC1=CC(=C(C=C1)C1=NC2=NC=NC(C2=N1)=O)N(C)C | C13H12N6O
